US08022222B2
Using the method of Example 3, Step A, ethyl 4-methyl-3-hydroxybenzoate (1.70 g, 9.46 mmol), 60% sodium hydride in mineral oil (378 mg, 9.48 mmol), and 2-chloro-4-nitropyridine (1.50 g, 9.46 mmol) were reacted to provide ethyl 4-methyl-3-(2-chloropyridin-4-yloxy)benzoate (2.59 g, 94% yield) as a clear oil. 1H NMR (CDCl3) δ 8.24 (d, 1H), 7.90 (d, 1H), 7.69 (s, 1H), 7.38 (d, 1H), 6.73 (d, 2H), 4.37 (quartet, 2H), 2.23 (s, 3H), 1.39 (t, 3H).

reactant | ethyl 4-methyl-3-hydroxybenzoate | 9.46 mmol, 1.70 g | CC1=C(C=C(C(=O)OCC)C=C1)O | C10H12O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 9.46 mmol, 1.50 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | ethyl 4-methyl-3-(2-chloropyridin-4-yloxy)benzoate | 2.59 g, 94% yield | CC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1)Cl | C15H14ClNO3
